US08629277B2
N-hydroxy hexanimidamide
To a solution of 0.107 g (15.4 mmol) of hydroxylamine hydrochloride in 11 mL of isopropyl alcohol, 1.90 g (22.64 mmol) of sodium bicarbonate was added. The resulting mixture was stirred at 25° C. to 30° C. for 10-15 min. 1.0 g (10.2 mmol) of hexanenitrile was added and stirred at 80° C. to 85° C. for 3-4 h. After the reaction period, the reaction mixtures was cooled to 25° C. to 30° C., filtered and washed with 2 mL of isopropyl alcohol. The filtrate was collected and distilled out completely to obtain a crude residue. The residue with chased with 5 mL of toluene, to yield the title compound.

reactant | hydroxylamine hydrochloride | 15.4 mmol, 0.107 g | Cl.NO
reactant | sodium bicarbonate | 22.64 mmol, 1.90 g | C([O-])(O)=O.[Na+]
reactant | hexanenitrile | 10.2 mmol, 1.0 g | C(CCCCC)#N | C6H11N
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | isopropyl alcohol | 11 mL | C(C)(C)O | C3H8O
product | N-hydroxy hexanimidamide | ONC(CCCCC)=N | C6H14N2O
